US04931436
5,11-Dihydro-11-[[3-[2-(dipropylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-(dipropylamino)ethyl]piperidine in a yield of 67% of theory. Colourless crystals, m.p. 202°-205° C. (ethanol).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-(dipropylamino)ethyl]piperidine | C(CC)N(CCC1CNCCC1)CCC | C13H28N2
solvent | ethanol | C(C)O | C2H6O
product | 5,11-Dihydro-11-[[3-[2-(dipropylamino)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 67% | Cl.C(CC)N(CCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CCC | InChI=1S/C26H35N5O2.ClH/c1-3-15-29(16-4-2)18-13-20-9-8-17-30(19-20)26(33)31-23-12-6-5-10-21(23)25(32)28-22-11-7-14-27-24(22)31;/h5-7,10-12,14,20H,3-4,8-9,13,15-19H2,1-2H3,(H,28,32);1H
